US06492403B1
2-Chloro-4,5-dimethoxybenzoic acid (0.5 g, 2.3 mmol) and PCl5 (0.54 g, 2.6 mmol) were placed in a round bottomed flask fitted with a reflux condenser. The mixture was heated in an oil bath at 120° C. for 70 min. The mixture was allowed to cool and the formed phosphorus oxychloride was removed under vacuum to give 0.52 g (96%) of 2-chloro-4,5-dimethoxybenzoyl chloride as a solid. 2-Chloro-4,5-dimethoxybenzoyl chloride (0.52 g, 2.2 mmol) was treated in a manner similar to that for Example 32 step (a) to give 2-bromo-1-(2-chloro-4,5-dimethoxyphenyl)ethan-1-one. The dry solid (0.65 g, 2.2 mmol) was dissolved in acetone (25 ml). To this solution 5-(methoxycarbonyl)-2-(methylthio)-thiophene-3-thiocarboxamide (0.55 g, 2.2 mmol) was added and heated at reflux for 5 h. At this point the solid that precipitated was filtered off and washed with acetone and dried under vacuum to give 0.53 g (54%) of methyl 4-[4-(2-chloro-4,5-dimethoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate. 1H-NMR (DMSO-d6; 300 MHz) δ2.73 (s, 3H), 3.83 (s, 3H), 3.84 (s, 3H), 3.85 (s, 3H), 7.13 (s, 1H), 7.69 (s, 1H), 8.13 (s, 1H), 8.17 (s, 1H).

reactant | 2-Chloro-4,5-dimethoxybenzoic acid | 2.3 mmol, 0.5 g | ClC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H9ClO4
reactant | PCl5 | 2.6 mmol, 0.54 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 2-chloro-4,5-dimethoxybenzoyl chloride | 0.52 g, 96% | ClC1=C(C(=O)Cl)C=C(C(=C1)OC)OC | C9H8Cl2O3
